US04393059
7-[2-(2-Amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid hydrochloride (syn-isomer: 1.5 g.) and sodium bicarbonate (0.56 g.) were dissolved in water (50 ml.) at room temperature with stirring and lyophilized. A solution of iodomethyl hexanoate (0.93 g.) in dimethylformamide (5 ml.) was added dropwise to a solution of the product obtained above in dimethylformamide (15 ml.) at -5° C. and stirred at the same temperature for 30 minutes. Ethyl acetate (50 ml.) and water (100 ml.) were added to the resultant solution and the ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate (50 ml.) twice. The extracts were combined with the ethyl acetate layer, washed with a saturated aqueous solution of sodium bicarbonate three times and a saturated aqueous solution of sodium chloride three times in turn, dried over magnesium sulfate, treated with activated charcoal and then concentrated under reduced pressure. After washing the concentrate with n-hexane (50 ml.), n-hexane (50 ml.) and diethylether (25 ml.) were added to the residue and allowed to stand in a refrigerator overnight. The precipitating powder was collected by filtration, washed with n-hexane and dried to give a mixture (1.0 g.) of n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn-isomer) and n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-2-cephem-4-carboxylate (syn-isomer.)

reactant | 7-[2-(2-Amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid hydrochloride | 1.5 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOC
reactant | sodium bicarbonate | 0.56 g | C([O-])(O)=O.[Na+]
reactant | iodomethyl hexanoate | 0.93 g | C(CCCCC)(=O)OCI | C7H13IO2
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | n-hexanoyloxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 1.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCOC(CCCCC)=O)C1=O)=NOC | C20H24ClN5O7S2
